US05962457
2-Methyl-3-o-tolyl-3H-pyrido[3,4-d]pyrimidin-4-one
2-Methyl-3-oxa-1,7-diaza-naphthalen-4-one (1.95 g, 12.0 mmol) was dissolved in acetic acid (30 mL) and o-toluidine (1.92 mL, 18 mmol) was added. The reaction was refluxed 7 hours, cooled and concentrated. The residue was taken up in ethyl acetate and extracted with water, saturated aqueous sodium bicarbonate, and brine. The organic layer was dried over magnesium sulfate and concentrated. The residue was flash chromatographed on silica gel (2×4 inches, packed in hexane) with elution proceeding as follows: 10% ethyl acetate/hexane (500 mL); 25% ethyl acetate/hexane (800 mL); 25% ethyl acetate/hexane (200 mL) and 40% ethyl acetate/hexane (200 mL), unweighed recovered 2-methyl-3-oxa-1,7-diaza-naphthalen-4-one; 40% ethyl acetate/hexane (300 mL), unweighed mixed fraction; 40% ethyl acetate/hexane (3000 mL), 2-methyl-3-o-tolyl-3H-pyrido[3,4-d]pyrimidin-4-one (2.47 g, 81%) of as an off white solid.

reactant | 2-Methyl-3-oxa-1,7-diaza-naphthalen-4-one | 12.0 mmol, 1.95 g | CC1=NC2=CN=CC=C2C(O1)=O | C8H6N2O2
reactant | o-toluidine | 18 mmol, 1.92 mL | NC=1C(=CC=CC1)C | C7H9N
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 2-Methyl-3-o-tolyl-3H-pyrido[3,4-d]pyrimidin-4-one | CC=1N(C(C2=C(N1)C=NC=C2)=O)C2=C(C=CC=C2)C | C15H13N3O
